US05616537
Preparation of 4-Allyloxycarbonyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-methylbenzofuran-3-carboxylic Acid (Compound No. 371)
A mixture comprising 54.2 g of 4-allyloxycarbonyl-5-hydroxy-2-methylbenzofuran-3-carboxylic acid, 47 g of 4,6-dimethoxy-2-methylsulfonylpyridine and 65 g of potassium carbonate in 200 ml of N,N-dimethylformamide, was heated and stirred at 70° C. for two hours. The mixture was returned to room temperature, and then the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. Crystals obtained by concentration under reduced pressure, were washed with isopropyl ether to obtain 79.2 g (yield: 98%) of the desired compound.

reactant | 4-allyloxycarbonyl-5-hydroxy-2-methylbenzofuran-3-carboxylic acid | 54.2 g | C(C=C)OC(=O)C1=C(C=CC2=C1C(=C(O2)C)C(=O)O)O | C14H12O6
reactant | 4,6-dimethoxy-2-methylsulfonylpyridine | 47 g | COC1=CC(=NC(=C1)OC)S(=O)(=O)C | C8H11NO4S
reactant | potassium carbonate | 65 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-Allyloxycarbonyl-5-(4,6-dimethoxypyrimidin-2-yl)oxy-2-methylbenzofuran-3-carboxylic Acid | 79.2 g, yield: 98% | C(C=C)OC(=O)C1=C(C=CC2=C1C(=C(O2)C)C(=O)O)OC2=NC(=CC(=N2)OC)OC | C20H18N2O8
